US04167570
6,11-Dihydro-2,6-dimethyl-11-(3-dimethylamino-propyl)-5H-pyrido[2,3-b][1,5]benzodiazepin-5-one by method A
A mixture consisting of 7.2 gm of 6,11-dihydro-2,6-dimethyl-5H-pyrido[2,3-b][1,5]benzodiazepin-5-one, 70 ml of dimethyl formamide and 1.9 gm of 50% sodium hydride in mineral oil was stirred at 30°-50° C. in a nitrogen atmosphere for 30 minutes. Then, a solution of 6.1 gm of 3-diethylamino-propyl chloride in 30 ml of dimethyl formamide was added dropwise, and the mixture was heated on an oil bath at 120° C. for 3 hours and then evaporated in vacuo. The residue was mixed with an aqueous potassium carbonate solution, and the mixture was extracted with ether. The ethereal phase was dried with sodium sulfate and evaporated, and the residue was recrystallized from petroleum ether (b.p. 100°-140° C.), yielding 76% of theory of the compound named in the heading, which had a melting point of 130°-131° C.

reactant | 6,11-dihydro-2,6-dimethyl-5H-pyrido[2,3-b][1,5]benzodiazepin-5-one | 7.2 gm | CC=1C=CC2=C(NC3=C(N(C2=O)C)C=CC=C3)N1 | C14H13N3O
reactant | sodium hydride | 1.9 gm | [H-].[Na+]
reactant | 3-diethylamino-propyl chloride | 6.1 gm | C(C)N(CCCCl)CC | C7H16ClN
solvent | dimethyl formamide | 30 ml | CN(C=O)C | C3H7NO
solvent | dimethyl formamide | 70 ml | CN(C=O)C | C3H7NO
product | 6,11-Dihydro-2,6-dimethyl-11-(3-dimethylamino-propyl)-5H-pyrido[2,3-b][1,5]benzodiazepin-5-one | CC=1C=CC2=C(N(C3=C(N(C2=O)C)C=CC=C3)CCCN(C)C)N1 | C19H24N4O
